US06403575B1
In Scheme 2, preparing enantiomerically pure (R)-azetidine alcohol 1 (R=Cbz) from D-methionine is as described in Abreo, et al., op. cit. First, D-methionine in aqueous sodium hydroxide solution is treated with tosyl chloride to form N-tosyl-D-methionine, which is treated with MeI followed by 1N sodium hydroxide to afford α-(N-p-tosyl-amino)-γ-butyrolactone according to the method of Sugano and Miyoshi, Bull. Chem. Soc. Japan, 1973, 46, 669. Further conversion to azetidine-2-carboxylic acid is carried out by the procedure of Miyoshi, et al., Chem. Lett. 1973, 5-6. The lactone in ethanol is treated with gaseous HBr to form N-tosyl-g-bromonorvaline ethyl ester. The bromoester in DMF solution with about four equivalents of H2O is treated with NaOH to form (R)-N-tosyl-azetidine-2-carboxylic acid (may be contaminated by the (S)-enantiomer as determined by 1H-NMR analysis of the amide derivative with α-methylbenzylamine)(Abreo, et al., op. cit.) Treating the N-tosylazetidine-2-carboxylic acid with sodium in liquid ammonia affords azetidine-2-carboxylic acid, which is subsequently treated with N-(benzyloxycarbonyl)oxy succinimide according to Abreo, et al., to afford N-Cbz-azetidine-2-carboxylic acid. To remove contaminating (S)-enantiomer, the N-Cbz derivative in MeOH is treated with D-tyrosine hydrazide to form an insoluble salt of the (R)-enantiomer, which is collected by filtration. The optical rotation of the subsequently liberated free acid is [α]D =+105.4 (c 4.0, CHCl3). Treating the free acid with borane.THF affords 1 (R=Cbz). The S-enantiomer ((S)-1) may be synthesized analogously starting from L-methionine. If needed for enantiomeric enrichment, the product may be optically resolved with D-tyrosine-hydrazide in analogy to the procedure described above. Other protecting groups, for example Boc, are readily incorporated by standard methods, e.g. by reacting the intermediate or Cbz deprotected azetidine-2-carboxylic acid with an appropriate standard reagent under prescribed conditions (Greene and Wuts, see above.).

reactant | D-methionine | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | sodium hydroxide | [OH-].[Na+]
product | N-tosyl-D-methionine | S(=O)(=O)(C1=CC=C(C)C=C1)N[C@H](CCSC)C(=O)O | C12H17NO4S2
